* C:\users\jose\Documents\tfg\ltspice4\slope-detector\Draft1.asc
C1 VCC+ N003 10n
L1 VCC+ N003 1µ
V1 N012 0 SFFM(0 10m 1.5meg 1 10k)
R1 NC_01 N012 50
R2 VCC+ N010 50k
R3 N010 0 60k
C2 N010 VIN 1µ
Q1 N003 N010 N011 0 2N2222
C3 VIN 0 1n
L2 VIN 0 10µ
V2 VCC+ 0 5 Rser=10
R4 N011 0 10
C4 N011 0 1µ
C5 0 VCC+ 470µ
C6 N009 N003 1µ
Q2 N002 N009 0 0 2N2222
C7 VCC+ N002 1µ
L3 VCC+ N002 470µ
Q3 VCC+ N002 VOUT 0 2N2222
R5 VOUT 0 100k
R6 N005 N001 80k
V3 N001 0 5
R7 N005 0 50k
C8 VIN 0 30p
C9 0 N004 30p
L4 VIN N004 100µ
R8 N008 0 15
C10 N008 0 1µ
R9 N001 VIN 400
C11 N005 N004 100p
Q4 VIN N005 N008 0 2N2222
V4 N007 0 PULSE(0 1.5 0 0 0 .5m 1m)
D1 N006 VIN D
D2 N006 N004 D
C12 N006 0 1µ
R10 N007 N006 10
.model D D
.lib C:\users\jose\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\jose\AppData\Local\LTspice\lib\cmp\standard.bjt
;tran 10m
* Amplifier
* BP filter
* MIXER
* OUTPUT STAGE
* DEMOD
.op
.tran 10m startup
;ic I(L2)=1f
.backanno
.end
